US04130568
A solution of 0.274g. (0.001 mole) of 7-acetoxy-6-allyl-8-methoxycoumarin in 10 ml. EtOAc/water, 1:1 was treated with 0.8 g. (.0033 mole) of potassium periodate and 0.5 ml. of a 10% aqueous solution of osmium tetroxide (10 mg. OsO4 /ml H2O). The reactants were stirred at 25° for 5.0 hours. The organic layer was separated, and the aqueous phase was further extracted with ethyl acetate. The organic extracts were combined, dried over sodium sulfate, and evaporated to yield pure 7-acetoxy-8-methoxycoumarin-6-acetaldehyde as a colorless oil.

reactant | 7-acetoxy-6-allyl-8-methoxycoumarin | 0.001 mole | C(C)(=O)OC1=C(C=C2C=CC(OC2=C1OC)=O)CC=C | C15H14O5
reactant | potassium periodate | .0033 mole | I(=O)(=O)(=O)[O-].[K+]
catalyst | osmium tetroxide | 10 mg | [Os](=O)(=O)(=O)=O
solvent | EtOAc water | CCOC(=O)C.O
product | 7-acetoxy-8-methoxycoumarin-6-acetaldehyde | C(C)(=O)OC1=C(C=C2C=CC(OC2=C1OC)=O)CC=O | C14H12O6
